US08633186B2
2-(2-(1H-pyrazol-1-yl)ethoxy)-6-nitrobenzonitrile
Prepared as in Example 215c from 2-(1H-pyrazol-1-yl)ethanol and 2,6-dinitrobenzonitrile in 89.2% yield. MS 259 (MH+).

reactant | 2-(1H-pyrazol-1-yl)ethanol | N1(N=CC=C1)CCO | C5H8N2O
reactant | 2,6-dinitrobenzonitrile | [N+](=O)([O-])C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C7H3N3O4
product | 2-(2-(1H-pyrazol-1-yl)ethoxy)-6-nitrobenzonitrile | 89.2% yield | N1(N=CC=C1)CCOC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C12H10N4O3
